US07425568B2
f) 2-(2-Hydroxy-2-phenylethoxy)benzene-1,4-diol
A solution of 2-[2,5-bis(benzyloxy)phenoxy]-1-phenylethanol (3.9 g) in ethanol (175 ml) was hydrogenated in the presence of 10% palladium on charcoal (100 mg) at 30 psi. The catalyst was removed by filtration and the solvent was evaporated under reduced pressure. The residue was recrystallized from the mixture of toluene-ethyl acetate 8:1 (15 ml). The yield of 2-(2-Hydroxy-2-phenylethoxy)-benzene-1,4-diol is 1.2 g. 1H NMR (DMSO-d6) δ=3.79 (dd, J=9.6, 8.3 Hz, 1H), 4.00 (dd, J=9.6, 3.6 Hz, 1H), 4.94 (ddd, J=3.6, 8.3, 3.9 Hz, 1H), 5.66 (d, J=3.9 Hz, 1H), 6.18 (dd, J=8.5, 2.3 Hz, 1H), 6.34 (d, J=2.3, 1H), 6.57 (d, J=8.5, 1H), 7.26-7.47 (m, 5H), 7.97 (s, 1H), 8.66 (s, 1H).

reactant | 2-[2,5-bis(benzyloxy)phenoxy]-1-phenylethanol | 3.9 g | C(C1=CC=CC=C1)OC1=C(OCC(O)C2=CC=CC=C2)C=C(C=C1)OCC1=CC=CC=C1 | C28H26O4
solvent | ethanol | 175 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
product | 2-(2-Hydroxy-2-phenylethoxy)benzene-1,4-diol | OC(COC1=C(C=CC(=C1)O)O)C1=CC=CC=C1 | C14H14O4
